Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1],4.36405917901
[C:5]([H:6])([H:7])[O:8][H:9].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-3.84151282225
[C:7]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.66509741077
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-5.530591339830001
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2],-1.4298034411899998
[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.75002474283
[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.99476049847
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],2.01804871997
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-0.970220501236
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],1.97726073483
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[H:4][C:7]#[C:5][H:6],-0.917654752551
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.8273778491689999
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9].[O:10][H:11],3.77005523904
[H:1][O:2][C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3],0.565462019999
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1][O:2],6.173833826980001
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3][C:10]([H:11])([H:12])[H:13]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.14427881359
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3],3.35656621852
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:8].[O:7],8.25758063925
[C:4]([H:5])#[C:6][C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-2.96033028334
[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7]>>[C:4]#[C:5][O:6][H:7].[H:1][C:2]=[O:3],1.177480717
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1],3.7221663521
[O:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1][O:2][C:3]([C:4][H:5])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],4.60428761896
[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.02168411977
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])[C:8]#[C:9][H:10],0.8253034803899999
[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-3.74006986084
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10]>>[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:7]([H:8])=[C:9][H:10],2.05259249132
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1],3.9636793432
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])#[C:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1],6.48211803033
[H:1][C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1[H:12]>>[H:1][C:2]=[C:11]([O:10][C:7]([C:4]([C:3])([H:5])[H:6])([H:8])[H:9])[H:12],4.97017042957
